US05330911
GRGD;
GYIGSRY; GRGDF, GRGDY; GREDV; GYIGSR; GREDVY; and GRGDS;

reactant | GYIGSR | CC[C@H](C)[C@@H](C(=O)NCC(=O)N[C@@H](CO)C(=O)N[C@@H](CCCN=C(N)N)C(=O)O)NC(=O)[C@H](CC1=CC=C(C=C1)O)NC(=O)CN | C28H45N9O9
reactant | GRGDS | C(C[C@@H](C(=O)NCC(=O)N[C@@H](CC(=O)O)C(=O)N[C@@H](CO)C(=O)O)NC(=O)CN)CN=C(N)N | C17H30N8O9
product | GRGD | C(CC(C(=O)NCC(=O)NC(CC(=O)O)C(=O)O)NC(=O)CN)CN=C(N)N | C14H25N7O7
